US04292404
Synthesis of p-hydroxyhippuryl-L-histidyl-L-leucine:
20 g of carbobenzoxyglycyl-L-histidyl-L-leucine methyl ester is added to 100 ml of 25% HBr solution in acetic acid and this mixture is stirred for one hour to split off the carbobenzoxy group, and then 2000 ml of absolute ether is added. The precipitate thus produced is filtered off and washed with ethyl ether and dried in a desiccator.

reactant | carbobenzoxyglycyl-L-histidyl-L-leucine methyl ester | 20 g | COC([C@@H](NC([C@@H](NC(CNC(=O)OCC1=CC=CC=C1)=O)CC1=CNC=N1)=O)CC(C)C)=O | C23H31N5O6
reactant | HBr | 100 ml | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | p-hydroxyhippuryl-L-histidyl-L-leucine | OC1=CC=C(C(NCC(=O)N[C@@H](CC2=CNC=N2)C(=O)N[C@@H](CC(C)C)C(=O)O)=O)C=C1 | C21H27N5O6
